// cmp_offset_search: Binary search for comparator offset using cmp_strongarm feedback
// 12 clock cycles, 10 binary search steps
simulator lang=spectre
global 0

ahdl_include "cmp_offset_search.va"
ahdl_include "cmp_strongarm.va"

// Supply rails
Vvdd (vdd 0) vsource type=dc dc=0.8
Vvss (vss 0) vsource type=dc dc=0

// Search clock: 200ns period -> 5 MHz
Vclk (CLK 0) vsource type=pulse val0=0 val1=0.8 period=200n delay=10n rise=2n fall=2n width=98n

// Common-mode voltage at vdd/2 = 0.4V
Vvincm (vincm 0) vsource type=dc dc=0.4

// Dummy LP/LM loads (not used by search logic)
Vlp (lp 0) vsource type=dc dc=0
Vlm (lm 0) vsource type=dc dc=0

// cmp_offset_search drives VINP and VINN; XCMP provides DCMPP feedback
// cmp_offset_search ports: CLK DCMPP VINCM VINP VINN
// cmp_strongarm ports: CLK VINN VINP DCMPN DCMPP LP LM VSS VDD
ISEARCH (CLK dcmpp vincm vinp_node vinn_node) cmp_offset_search vdd=0.8

ICMP (CLK vinn_node vinp_node dcmpn dcmpp lp lm vss vdd) cmp_strongarm \
        voffset=10m

tran tran stop=2400n maxstep=1n
save CLK vincm vinp_node vinn_node dcmpp dcmpn
